US06916921B2
38 mg sodium tris(acetoxy)borohydride were added to a solution of 42 mg (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-al and 10 μl piperidine in 3 ml tetrahydrofuran at room temperature. The mixture was stirred for two hours, poured into saturated sodium bicarbonate solution, extracted with ethyl acetate and washed with brine. The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography to give 15 mg (20S)-20-[(piperidin-1-yl)methyl]-4,4-dimethyl-5α-pregna-8,14-dien-3β-ol as a white solid.

reactant | sodium tris(acetoxy)borohydride | 38 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (20S)-3β-hydroxy-4,4,20-trimethyl-pregna-8,14-dien-21-al | 42 mg | O[C@@H]1C(C2CCC=3C4=CC[C@H]([C@@H](C=O)C)[C@]4(CCC3[C@]2(CC1)C)C)(C)C | C24H36O2
reactant | piperidine | 10 μl | N1CCCCC1 | C5H11N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (20S)-20-[(piperidin-1-yl)methyl]-4,4-dimethyl-5α-pregna-8,14-dien-3β-ol | 15 mg | N1(CCCCC1)C[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O)(C)C | C29H47NO
